US07122550B2
2-(6-Chloropyrazin-2-yl)-1,2,3,4-tetrahydroisoquinoline
In a procedure analogous to Example 21, reaction of tetrahydroisoquinoline and 2,6-dichloropyrazine furnished the product (95%).

reactant | tetrahydroisoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
reactant | 2,6-dichloropyrazine | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
product | 2-(6-Chloropyrazin-2-yl)-1,2,3,4-tetrahydroisoquinoline | 95% | ClC1=CN=CC(=N1)N1CC2=CC=CC=C2CC1 | C13H12ClN3
